US05294734
2.5 g (8.89 mmol) of ethyl 2-amino-6-hydroxy-4-phosphonomethyl-hept-3-enoate are dissolved in 17 ml of H2O and the solution is heated to reflux. The reaction solution is kept for 12 hours at reflux temperature. The reaction solution is then treated with 0.3 g of activated carbon, stirred for 10 minutes and filtered over Hyflo®. The filtrate is concentrated by evaporation and the residue is crystallised from water/ethanol and dried, giving white crystals of 2-amino-6-hydroxy-4-phosphonomethyl-hept-3-enoic acid. Melting point: 210° C. (decomp.).

reactant | ethyl 2-amino-6-hydroxy-4-phosphonomethyl-hept-3-enoate | 8.89 mmol, 2.5 g | NC(C(=O)OCC)C=C(CC(C)O)CP(=O)(O)O | C10H20NO6P
solvent | H2O | 17 ml | O | H2O
product | 2-amino-6-hydroxy-4-phosphonomethyl-hept-3-enoic acid | NC(C(=O)O)C=C(CC(C)O)CP(=O)(O)O | C8H16NO6P
